US04608079
Preparation of thieno[2,3-b]pyridine-5,6-dicarboxylic acid
A solution containing dimethyl thieno[2,3-b]pyridine-5,6-dicarboxylate (27.75 g, 0.11 mol) and potassium hydroxide (30.98 g, 0.55 mol) in methanol (200 mL) under a N2 atmosphere is heated at reflux for two hours. The reaction mixture is cooled and sufficient water added to dissolve any solids present before evaporating the mixture to dryness. The resulting solid is dissolved in a minimum volume of water, cooled in an ice bath and acidified with concentrated H2SO4 to pH~1. Thieno[2,3-b]pyridine-5,6-dicarboxylic acid is filtered off and dried overnight to give 23.36 g mp 272°-275° C.

reactant | dimethyl thieno[2,3-b]pyridine-5,6-dicarboxylate | 0.11 mol, 27.75 g | S1C=CC=2C1=NC(=C(C2)C(=O)OC)C(=O)OC | C11H9NO4S
reactant | potassium hydroxide | 0.55 mol, 30.98 g | [OH-].[K+]
reactant | water | O | H2O
solvent | methanol | 200 mL | CO | CH4O
product | thieno[2,3-b]pyridine-5,6-dicarboxylic acid | S1C=CC=2C1=NC(=C(C2)C(=O)O)C(=O)O | C9H5NO4S
